US07709466B2
6-Chloro-4-(1H-indol-2-yl)-2H-pyridazin-3-one
2 g of 2-(6-chloro-3-methoxy-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester is treated for 16 h at 85° C. with 2.76 g of KI and 1.8 g of trimethylsilylchloride in 200 ml acetonitrile. On completion of the reaction the reaction solution is poured into water and the precipitated product is isolated by filtration. Yield: 1.33 g. LC-MS (ES+) 246 (M+H)+.

reactant | 2-(6-chloro-3-methoxy-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)Cl)OC | C18H18ClN3O3
reactant | trimethylsilylchloride | 1.8 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 6-Chloro-4-(1H-indol-2-yl)-2H-pyridazin-3-one | ClC=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1 | C12H8ClN3O
